US06797726B1
In a mixture of 4 mL of toluene and 8 mL of 50% (W/V) aqueous solution of sodium hydroxide is suspended 2.0 g of 2-benzo[b]thiophen-5-yl-1-ethanol, to which are added 4.4 mL of 1-bromo-3-chloropropane and 0.11 g of tetra-n-butylammonium hydrogen sulfate. The mixture is heated under reflux for 2 hours. The reaction mixture is introduced into a mixture of water and toluene, and the organic layer is separated. The organic layer is washed with water and dried over anhydrous magnesium sulfate, the solvent is distilled off under reduced pressure, and the residue is purified by column chromatography (eluent: n-hexane:ethyl acetate=10:1 to 5:1) to obtain 1.85 g of 5-[2-(3-chloropropyloxy)ethyl]benzo[b]thiophene as an oily product.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | 2-benzo[b]thiophen-5-yl-1-ethanol | 2.0 g | S1C2=C(C=C1)C=C(C=C2)CCO | C10H10OS
reactant | 1-bromo-3-chloropropane | 4.4 mL | BrCCCCl | C3H6BrCl
reactant | water | O | H2O
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetra-n-butylammonium hydrogen sulfate | 0.11 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 5-[2-(3-chloropropyloxy)ethyl]benzo[b]thiophene | 1.85 g | ClCCCOCCC1=CC2=C(SC=C2)C=C1 | C13H15ClOS
